US07915250B2
To a solution of phenylmethyl 3-methylideneazetidine-1-carboxylate (2.46 g, 0.0121 mol) in chloroform (100 mL) was added 3-chloroperoxybenzoic acid (12.5 g, 0.0726 mol) at 0° C. The reaction mixture was allowed to warm up to room temperature over a period of 12 hours then quenched with 1 M sodium thiosulfate/saturated aqueous sodium bicarbonate (1:1). The layers were separated and the organic layer was dried over anhydrous magnesium sulfate then concentrated. The residue was purified by flash chromatography (5-15% ethyl acetate in hexanes) to afford phenylmethyl 1-oxa-5-azaspiro[2.3]hexane-5-carboxylate (2.2 g, 83% yield) as clear and colorless oil. 1H NMR (400 MHz, CDCl3): 7.37-7.29 (m, 5H), 5.12 (s, 2H), 4.35-4.26 (m, 4H), 2.85 (s, 2H). MS (EI) for C12H13NO3: 220 (MH+).

reactant | phenylmethyl 3-methylideneazetidine-1-carboxylate | 0.0121 mol, 2.46 g | C=C1CN(C1)C(=O)OCC1=CC=CC=C1 | C12H13NO2
reactant | 3-chloroperoxybenzoic acid | 0.0726 mol, 12.5 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | phenylmethyl 1-oxa-5-azaspiro[2.3]hexane-5-carboxylate | 2.2 g, 83% yield | O1CC12CN(C2)C(=O)OCC2=CC=CC=C2 | C12H13NO3
